### PR TITLE
[Merged by Bors] - chore(Combinatorics): review porting notes

### PR DESCRIPTION
**Pull request by Vierkantor**
Go through all the porting notes in the Combinatorics folder and deal with those that have an obvious solution. Some are easy fixes, others we won't fix (such as being stricter about defeqs).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 1]
```diff
@@ -199,12 +199,6 @@ theorem orderOf_eq_zero_iff' : orderOf x = 0 ↔ ∀ n : ℕ, 0 < n → x ^ n 
 @[to_additive]
 lemma orderOf_ne_zero_iff : orderOf x ≠ 0 ↔ IsOfFinOrder x := orderOf_eq_zero_iff.not_left
 
-/-- In a nontrivial monoid with zero, the order of the zero element is zero. -/
-@[simp]
-lemma orderOf_zero (M₀ : Type*) [MonoidWithZero M₀] [Nontrivial M₀] : orderOf (0 : M₀) = 0 := by
-  rw [orderOf_eq_zero_iff, isOfFinOrder_iff_pow_eq_one]
-  simp +contextual [ne_of_gt]
-
```
Comment (bryangingechen) [inline Mathlib/GroupTheory/OrderOfElement.lean]: Why did this and the other stuff below get deleted?

Comment (Vierkantor) [reply Mathlib/GroupTheory/OrderOfElement.lean]: Must have been a mistake while merging. Readded now.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
